US07781441B2
c) 8-Bromo-6-chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (0.51 ml, 8.23 mmol) was added to a suspension of 8-bromo-6-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione (800 mg, 2.74 mmol) in acetone (8 ml). The mixture was stirred for 3 hours (r.t.), and the title compound (690 mg, 58%) was isolated from the reaction mixture by filtration.

reactant | Methyl iodide | 8.23 mmol, 0.51 ml | CI | CH3I
reactant | 8-bromo-6-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 2.74 mmol, 800 mg | BrC=1C=C(C=C2C(NC(NC12)=S)C)Cl | C9H8BrClN2S
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | 8-Bromo-6-chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 690 mg, 58% | I.BrC=1C=C(C=C2C(NC(=NC12)SC)C)Cl | InChI=1S/C10H10BrClN2S.HI/c1-5-7-3-6(12)4-8(11)9(7)14-10(13-5)15-2;/h3-5H,1-2H3,(H,13,14);1H
